US05530002
3.1. 1H-Indene-3-ethanol
A suspension is prepared from 3.4 g (0.09 mol) of lithium aluminium hydride in 200 ml of dry diethyl ether. A solution of 7.7 g (0.044 mol) of 1H-indene-3-acetic acid in 150 ml of diethyl ether is added dropwise, and the mixture is stirred and heated at reflux for 20 h. The mixture is cooled, hydrolysed with approximately 8 ml of 10% aqueous sodium potassium tartrate solution, heated at boiling for 1 h and filtered. The residue is rinsed with diethyl ether, and the filtrate is evaporated under reduced pressure. The residue is purified by distillation. 5.2 g of a product are obtained which is used as it is in the following step.

reactant | lithium aluminium hydride | 0.09 mol, 3.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1H-indene-3-acetic acid | 0.044 mol, 7.7 g | C1C=C(C2=CC=CC=C12)CC(=O)O | C11H10O2
reactant | sodium potassium tartrate | approximately 8 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1H-Indene-3-ethanol | 5.2 g | C1C=C(C2=CC=CC=C12)CCO | C11H12O
